US05780483
a) Preparation of N-(2-hydroxy-3-aminophenyl)-N'-(2-bromophenyl)urea
To a solution of N-(2-hydroxy-3-nitrophenyl)-N'-(2-bromophenyl)urea (300 mg, 0.85 mmol) in ethanol (20 mL), Tin chloride (958 mg, 4.25 mmol) was added. The reaction mixture was stirred at reflux for 16 hours then cooled to room temperature. The reaction mixture was basified to pH 8 with aq. NaHCO3 then extracted with ethyl acetate (3x). The organic extracts were combined, dried over MgSO4, filtered and concentrated under reduced pressure to give product (274 mg, 99%). EI-MS m/z 323 (M+H)+.

reactant | N-(2-hydroxy-3-nitrophenyl)-N'-(2-bromophenyl)urea | 0.85 mmol, 300 mg | OC1=C(C=CC=C1[N+](=O)[O-])NC(=O)NC1=C(C=CC=C1)Br | C13H10BrN3O4
reactant | Tin chloride | 4.25 mmol, 958 mg | [Sn](Cl)(Cl)(Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-(2-hydroxy-3-aminophenyl)-N'-(2-bromophenyl)urea | 274 mg, 99% | OC1=C(C=CC=C1N)NC(=O)NC1=C(C=CC=C1)Br | C13H12BrN3O2
